US06462050B1
Step A: N-(1-Cyanoethyl)glycine benzyl ester hydrochloride (1—1)
TMSCN (4.27 ml, 32 mmol) was added cautiously (reaction is exothermic) to a stirred solution of glycine benzyl ester (5.3 g, 32 mmol, prepared from the HCl salt by partitioning between EtOAc and NaHCO3 solution) and acetaldehyde (1.8 ml, 32 mmol) in methylene chloride (11 ml). After 4 h the volatiles were removed in vacuo and the residue was taken up in EtOAc and was washed with brine, dried (Na2SO4) and evaporated in vacuo to an oil. The oil was redissolved in EtOAc and 9.9 M HCl in EtOH (38.4 mmol) was added to give a crystalline precipitate which was isolated by filtration and washing with EtOAc, to give 1-11: 1H NMR (CDCl3) δ1.49 (d, J=7.1 Hz, 3 H, CH3), 3.54 (d, J=17.3 Hz, 1 H, CHAHB), 3.64 (d, J=17.3 Hz, 1 H, CHAHB), 3.74 (q, J=7.0 Hz, 1 H, a-CH), 5.18 (s, 2 H, CH2O), 7.36 (s, 5 H, Ph).

reactant | TMSCN | 32 mmol, 4.27 ml | [Si](C)(C)(C)C#N | C4H9NSi
reactant | glycine benzyl ester | C(C1=CC=CC=C1)OC(CN)=O | C9H11NO2
reactant | HCl | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | acetaldehyde | 32 mmol, 1.8 ml | C(C)=O | C2H4O
reactant | HCl | 9.9 M | Cl | ClH
reactant | EtOH | 38.4 mmol | CCO | C2H6O
solvent | methylene chloride | 11 ml | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(1-Cyanoethyl)glycine benzyl ester hydrochloride | Cl.C(C1=CC=CC=C1)OC(CNC(C)C#N)=O | InChI=1S/C12H14N2O2.ClH/c1-10(7-13)14-8-12(15)16-9-11-5-3-2-4-6-11;/h2-6,10,14H,8-9H2,1H3;1H
